US07446103B2
N-t-Butoxycarbonyl-5-carboxyisoindoline (D13)
A solution of N-t-butoxycarbonyl-5-methoxycarbonylisoindoline (D12) (2.11 g) in MeOH (10 ml) was treated with 1M NaOH and heated at 60° C. for 1 h. The mixture was cooled to rt and the MeOH evaporated. The aqueous was washed with diethyl ether (2×20 ml), then acidified with 5% citric acid solution and extracted with diethyl ether (2×20 ml). The combined extracts were washed with water (2×20 ml), brine (20 ml), dried (MgSO4) and evaporated to give the title compound (D13) (1.47 g). MS electrospray (+ion) 264 (MH+). 1H NMR δ (CDCl3): 8.02 (2H, m), 7.35 (1H, m), 4.75 (2H, s), 4.71 (2H, s), 1.53 (9H, s).

reactant | N-t-butoxycarbonyl-5-methoxycarbonylisoindoline | 2.11 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C(=O)OC | C15H19NO4
reactant | NaOH | 1M | [OH-].[Na+]
solvent | MeOH | 10 ml | CO | CH4O
product | N-t-Butoxycarbonyl-5-carboxyisoindoline | 1.47 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C(=O)O | C14H17NO4
